US04801605
To a solution of α-(2-chloro-6-oxocyclohex-1-enyl)acetate (700 g) in anhydrous ethanol (2.1L) is added ethyl mercaptoacetate (410 g). Then to this solution is added at 5° a solution of potassium t-butoxide (381 g) in anhydrous ethanol (1.8L) dropwise over a period of 1.5 hours. This is stirred for an additional 2 hours at this temperature and then kept at room temperature overnight. The solvent is removed in vacuo and the residue is mixed with ethyl ether (3L) and water. The layers are separated and the organic layer is washed with water (2×400 mL), dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated in vacuo to yield ethyl α-(2-ethoxy-carbonylmethylthio-6-oxocyclohex-1-enyl)acetate as a light yellow oil.

reactant | α-(2-chloro-6-oxocyclohex-1-enyl)acetate | 700 g | ClC1=C(C(CCC1)=O)CC(=O)[O-]
reactant | ethyl mercaptoacetate | 410 g | SCC(=O)OCC | C4H8O2S
reactant | potassium t-butoxide | 381 g | CC(C)([O-])C.[K+]
reactant | ethanol | 2.1L | C(C)O | C2H6O
reactant | ethanol | 1.8L | C(C)O | C2H6O
product | ethyl α-(2-ethoxy-carbonylmethylthio-6-oxocyclohex-1-enyl)acetate | C(C)OC1=C(C(CCC1SC=C=O)=O)CC(=O)OCC | C14H18O5S
